US07655666B2
2-Isocyanato-5-(3-methoxy-propionyl)-4-trifluoromethyl-benzoic acid methyl ester
In a dried flask purged with argon, a solution of 2-amino-5-(3-methoxy-propionyl)-4-trifluoromethyl-benzoic acid methyl ester (154 mg, 0.504 mmol) in dry toluene (4.7 mL) was cooled to 0° C. and treated dropwise with a solution of phosgene in toluene (20%, 4.9 mL). A slow stream of phosgene was introduced and the reaction mixture was heated to reflux for 2 h. Argon was blown through the yellow solution and the solvent distilled off leaving the title compound (168 mg, 100%) as an oily residue, sufficiently pure for the next step. 1H-NMR (CDCl3, 360 MHz): 8.20 (s, 1H), 7.45 (s, 1H), 4.00 (s, 3H), 3.75 (t, J=8 Hz, 2H), 3.35 (s, 31H), 3.10 (t, J=8 Hz, 2H).

reactant | 2-amino-5-(3-methoxy-propionyl)-4-trifluoromethyl-benzoic acid methyl ester | 0.504 mmol, 154 mg | COC(C1=C(C=C(C(=C1)C(CCOC)=O)C(F)(F)F)N)=O | C13H14F3NO4
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 4.7 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 4.9 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Isocyanato-5-(3-methoxy-propionyl)-4-trifluoromethyl-benzoic acid methyl ester | 168 mg, 100% | COC(C1=C(C=C(C(=C1)C(CCOC)=O)C(F)(F)F)N=C=O)=O | C14H12F3NO5
